US09315458B2
A) 3-hydroxy-2-methylbenzonitrile
To a solution of 3-bromo-2-methylphenol (20.0 g) in DMF (250 mL) were added copper(I) cyanide (19.0 g) and tetrakis(triphenylphosphine)palladium(0) (3.70 g), and the mixture was heated with stirring at 120° C. for 16 hr under nitrogen atmosphere. The reaction mixture was poured into water, and the mixture was filtered. The filtrate was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was washed with tert-butyl methyl ether to give the title compound (7.00 g).

reactant | 3-bromo-2-methylphenol | 20.0 g | BrC=1C(=C(C=CC1)O)C | C7H7BrO
reactant | copper(I) cyanide | 19.0 g | [Cu]C#N
reactant | water | O | H2O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.70 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-hydroxy-2-methylbenzonitrile | 7.00 g | OC=1C(=C(C#N)C=CC1)C | C8H7NO
